US06316466B1
n-Butyllithium (214 ml, 340 mmol, 1.6 M solution in hexane) was added dropwise to a solution of acetonitrile (23.8 ml, 460 mmol) in dry tetrahydrofuran (1000 ml) at −78° C. After stirring the reaction mixture for 20 min., a solution of 4-bromobenzoyl chloride in dry tetrahydrofuran (50 ml) was added dropwise over 20 min. After 1 h, saturated ammonium chloride was added (200 ml) and the reaction mixture was allowed to warm to room temperature. The product was extracted into ether and washed with 1N hydrochloric acid (400 ml). The organics were removed in vacuo and the residue was redissolved in ethyl acetate. Ammonium hydroxide was added to give a solid which was filtered, redissolved in ethyl acetate and washed with 2 N hydrochloric acid. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to give 2-(3-bromobenzoyl)-acetonitrile (16.6 g) as a solid.

reactant | n-Butyllithium | 340 mmol, 1.6 M, 214 ml | C(CCC)[Li]
reactant | acetonitrile | 460 mmol, 23.8 ml | C(C)#N | C2H3N
reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-bromobenzoyl)-acetonitrile | 16.6 g | BrC=1C=C(C(=O)CC#N)C=CC1 | C9H6BrNO
